US05663200
62d) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-[p-(2-methoxyethoxy)phenyl]-2(R)-[(p-benzyloxyphenyl)methyl]hexanoic acid
3.85 g (6.68 mmol) of 5(S)-[1(S)-(Boc-amino)-2-[p-(2-methoxyethoxy)phenyl]ethyl]-3(R)-[(p-benzyloxyphenyl)methyl]dihydrofuran-2-(3H)-one in 107 ml of dimethoxyethane and 54 ml of water are hydrolysed, under a protective gas, with 26.5 ml of a 1M lithium hydroxide solution. After 17 h at RT, the reaction mixture is treated with an ice-cold mixture of 324 ml of sat. NH4Cl solution, 27 ml of 10% citric acid solution and 134 ml of methylene chloride. Methanol is added in order to dissolve the product completely. The aqueous phase is separated off and extracted 2× with methylene chloride. The organic phases are washed with saline, dried with Na2SO4 and evaporated: tRet (II)=15.8 min; FAB-MS (M+H)+ =594.

reactant | 5(S)-[1(S)-(Boc-amino)-2-[p-(2-methoxyethoxy)phenyl]ethyl]-3(R)-[(p-benzyloxyphenyl)methyl]dihydrofuran-2-(3H)-one | 6.68 mmol, 3.85 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCCOC)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C34H41NO7
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | NH4Cl | 324 ml | [NH4+].[Cl-]
reactant | citric acid | 27 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethoxyethane | 107 ml | C(OC)COC | C4H10O2
solvent | water | 54 ml | O | H2O
solvent | Methanol | CO | CH4O
solvent | methylene chloride | 134 ml | C(Cl)Cl | CH2Cl2
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-[p-(2-methoxyethoxy)phenyl]-2(R)-[(p-benzyloxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=C(C=C1)OCCOC | C34H43NO8
